US05100893
A mixture of 6.2 parts of N,4-dihydroxybenzenecarboximidamide and 44.6 parts of triethoxymethane was stirred overnight at reflux temperature. The reaction mixture was poured into water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 99:1). The eluent of the desired fraction was evaporated, yielding 1.5 parts (23.1%) of 4-(1,2,4-oxadiazol-3-yl)phenol (interm. 10).

reactant | N,4-dihydroxybenzenecarboximidamide | ONC(=N)C1=CC=C(C=C1)O | C7H8N2O2
reactant | triethoxymethane | C(C)OC(OCC)OCC | C7H16O3
solvent | water | O | H2O
product | 4-(1,2,4-oxadiazol-3-yl)phenol | 23.1% | O1N=C(N=C1)C1=CC=C(C=C1)O | C8H6N2O2
